US05705522
13.31 g of D-aspartic acid (0.1 mole) are dissolved in 135 ml of absolute ethanol containing 8.7 g of dry hydrogen chloride. The reaction mixture is stirred for about 2 hr. The solution is diluted by addition of 250 ml of absolute ethanol. Triethylamine is then added dropwise until the solution becomes alkaline. After standing for 16 hr at +4° C., the obtained crystals are filtered, washed successively with cold absolute ethanol and ether, then dried. The reaction yields 11.5 g of D-aspartic acid β-ethyl ester (71%).

reactant | D-aspartic acid | 0.1 mole, 13.31 g | N[C@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 135 ml, 8.7 g | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | D-aspartic acid β-ethyl ester | 11.5 g, 71% | CCOC([C@H](N)CC(=O)O)=O | C6H11NO4
